US04230707
10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide
A mixture of 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid (6.0 g., 0.024 mol) and 1,1'-carbonyldiimidazole (4.0 g., 0.024 mol) in dimethylformamide (120 ml) is heated at 110° C. for 2.5 hours under nitrogen. The solution is cooled in an ice bath and anhydrous ammonia is bubbled through for 15 minutes. The mixture is stirred at ice bath temperature for 2 hours and at room temperature for one hour. The precipitate is filtered off, washed with tetrahydrofuran and dried to give the product (5.2 g.), mp 340° C. (dec).

reactant | 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylic acid | 0.024 mol, 6.0 g | O=C1C=2C(N=C3N1C=C(C=C3)C(=O)O)=CSC2 | C11H6N2O3S
reactant | 1,1'-carbonyldiimidazole | 0.024 mol, 4.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxamide | O=C1C=2C(N=C3N1C=C(C=C3)C(=O)N)=CSC2 | C11H7N3O2S
